US08455477B2
Step 3: (1-benzylpyrrolidin-2-yl)methanol
Into a 5,000 ml 3-necked roundbottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of lithium aluminum hydride (54.0 g, 1.42 mol) in tetrahydrofuran (3,500 ml) at 0° C. This was followed by the dropwise addition of a solution of ethyl 1-benzylprolinate (330 g, 1.42 mol) in tetrahydrofuran (500 ml), maintaining an internal temperature of 0° C. (2 hours total addition time). The resulting solution was allowed to stir for 2 hours while the temperature was maintained at 0° C. The reaction mixture was then quenched by the addition of water. The solution was filtered, and the filtration residue was washed once with 500 ml of tetrahydrofuran. The filtrate was concentrated by evaporation under vacuum using a rotary evaporator. The residue was dissolved in 3,000 ml of ethyl acetate, dried over sodium sulfate, filtered and concentrated to afford 1-benzylpyrrolidin-2-yl)methanol, which was used without further purification.

reactant | lithium aluminum hydride | 1.42 mol, 54.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-benzylprolinate | 1.42 mol, 330 g | C(C1=CC=CC=C1)N1[C@H](C(=O)OCC)CCC1 | C14H19NO2
solvent | tetrahydrofuran | 3,500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | (1-benzylpyrrolidin-2-yl)methanol | C(C1=CC=CC=C1)N1C(CCC1)CO | C12H17NO
